US04356247
To 30 ml of an ethanol solution of 13.0 g of the intermediate product obtained in Preparative Example 2, viz., 2-ethylmercapto-3-ethylbenzothiazolium p-toluenesulfoante, was added 4.5 g of 3-benzylrhodanine, while stirring the mixture at room temperature (about 20° C.), 6.1 g of triethylamine was added dropwise to the mixture over a 3 minute period, and thereafter, the resultant mixture was refluxed for 10 minutes. After cooling the reaction mixture, precipitate formed was recovered by filtration and recrystallized from a mixture of chloroform and ethanol to provide 4.6 g of 3-benzyl-5-(3-ethylbenzothiazolylidene)rhodanine (melting point 209° to 211° C.).

reactant | 2-ethylmercapto-3-ethylbenzothiazolium | C(C)SC=1SC2=C([N+]1CC)C=CC=C2
reactant | 3-benzylrhodanine | 4.5 g | C(C1=CC=CC=C1)N1C(SCC1=O)=S | C10H9NOS2
solvent | triethylamine | 6.1 g | C(C)N(CC)CC | C6H15N
product | 3-benzyl-5-(3-ethylbenzothiazolylidene)rhodanine | 4.6 g | C(C1=CC=CC=C1)N1C(SC(C1=O)=S1CN(C2=C1C=CC=C2)CC)=S | C19H18N2OS3
